US05922703
(3β,5β,14β,17β)-14-Amino-3-[[[(l-hydroxymethyl-2-methylpropyl)amino]thioxomethyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride
To a solution of 1.4 g (0.004 mole) of (3β,5β,14β,17β)-14-Amino-3-hydroxyandrostane-17-carboxylic Acid, Methyl Ester, prepared according to the procedure described in U.S. Pat. No. 4,885,280, incorporated by reference herein, in 50 ml of CH2Cl2 under N2 and stirring, 0.78 g (0.0044 mole) of 1,1'-thiocarbonyldiimidazole is added. After 2 days of stirring at ambient temperature, the solution is heated at reflux overnight and an additional 0.16 g (0.0009 mole) of 1,1'-thiocarbonyldiimidazole is added. The solution is allowed to stir further at ambient temperature for 3 days; then 2.06 g (0.02 mole) of (S)-2-amino-3-methyl-1-butanol is added to the reaction mixture. The solution is allowed to stir for another 3 days and the solvent is then removed under reduced pressure. The residue is taken up in fresh CH2Cl2, washed with H2O until the washing is neutral. After drying over MgSO4, CH2Cl2 is removed under reduced pressure to yield the crude free base. The solid is purified by flash chromatography and then converted to its hydrochloride salt by the treatment with ethanolic HCl to yield analytically pure (3β(S),5β,14β,17β)-14-Amino-14-Amino-3-[[[(l-hydroxymethyl-2-methylpropyl)amino]thioxomethyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride Final Product.

reactant | (3β,5β,14β,17β)-14-Amino-3-hydroxyandrostane-17-carboxylic Acid, Methyl Ester | 0.004 mole, 1.4 g | N[C@]12CC[C@@H]([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](C[C@H]3CC[C@@H]21)O)C)C(=O)OC | C21H35NO3
reactant | 1,1'-thiocarbonyldiimidazole | 0.0044 mole, 0.78 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 1,1'-thiocarbonyldiimidazole | 0.0009 mole, 0.16 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | (S)-2-amino-3-methyl-1-butanol | 0.02 mole, 2.06 g | N[C@H](CO)C(C)C | C5H13NO
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (3β,5β,14β,17β)-14-Amino-3-[[[(l-hydroxymethyl-2-methylpropyl)amino]thioxomethyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride | Cl.N[C@]12CC[C@@H]([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](C[C@H]3CC[C@@H]21)OC(=S)NC(C(C)C)CO)C)C(=O)OC | InChI=1S/C27H46N2O4S.ClH/c1-16(2)22(15-30)29-24(34)33-18-8-11-25(3)17(14-18)6-7-20-19(25)9-12-26(4)21(23(31)32-5)10-13-27(20,26)28;/h16-22,30H,6-15,28H2,1-5H3,(H,29,34);1H/t17-,18+,19+,20-,21-,22?,25+,26-,27+;/m1./s1
